US04769472
(3-Bromothien-2-yl) (4-methoxyphenyl)methanone oxime
A mixture of (3-bromothien-2-yl) (4-methoxyphenyl)methanone (2.5 g) and hydroxylamine hydrochloride (1.5 g) and 15 ml of pyridine was stirred at room temperature overnight and then heated at 100°-115° C. for 4 hours. A thin layer chromatography analysis showed the reaction to be complete. The mixture was quenched with water and extracted with ether. The ether phase was washed with 3N hydrochloric acid and water and dried over anhydrous magnesium sulfate. Upon evaporation of the ether, an oil was obtained which crystallized upon standing overnight. The solid was recrystallized from ether/pentane to give a pure crystalline product (2.39 g, m.p. 110°-115° C.).

reactant | (3-bromothien-2-yl) (4-methoxyphenyl)methanone | 2.5 g | BrC1=C(SC=C1)C(=O)C1=CC=C(C=C1)OC | C12H9BrO2S
reactant | hydroxylamine hydrochloride | 1.5 g | Cl.NO
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (3-Bromothien-2-yl) (4-methoxyphenyl)methanone oxime | 2.39 g | BrC1=C(SC=C1)C(=NO)C1=CC=C(C=C1)OC | C12H10BrNO2S
